US07678924B2
A mixture of 5.7 g of 3-difluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (30 mmol) and 25 ml of trimethyl phosphate (214 mmol) is stirred at a temperature of 180° C. for 18 hours. 250 ml of an ice-water mixture are then added. The resulting reaction product is filtered, washed with water and dissolved in 50 ml of ethyl acetate. The organic phase is washed with 50 ml of saturated sodium chloride solution and dried over sodium sulfate and concentrated by evaporation. 3.9 g (64% of theory) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester are obtained in the form of crystals (m.p. 59-60° C.).

reactant | 3-difluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 30 mmol, 5.7 g | C(C)OC(=O)C=1C(=NNC1)C(F)F | C7H8F2N2O2
reactant | trimethyl phosphate | 214 mmol, 25 ml | P(=O)(OC)(OC)OC | C3H9O4P
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 3.9 g, 64% | C(C)OC(=O)C=1C(=NN(C1)C)C(F)F | C8H10F2N2O2
